US06699887B2
A solution containing 2.0 g of 4-benzoyl-3-methyl-1-phenyl-2-pyrazolin-5-one (commercially available e.g. Aldrich 15,660-4) in 4 ml of phosphorus oxychloride was stirred under nitrogen at 100° C. for 30 min. The mixture was poured into 40 ml of saturated sodium hydrogen carbonate solution and extracted three times with 30 ml of dichloromethane. Combined extracts were dried over magnesium sulphate, filtered and evaporated to give 2.0 g of (5-chloro-3-methyl-1-phenyl-1H-pyrazol-4-yl)-phenyl-methanone as a yellow oil which was used without further purification.

reactant | 4-benzoyl-3-methyl-1-phenyl-2-pyrazolin-5-one | 2.0 g | C(C1=CC=CC=C1)(=O)C1C(=NN(C1=O)C1=CC=CC=C1)C | C17H14N2O2
reactant | sodium hydrogen carbonate | 40 ml | C(O)([O-])=O.[Na+]
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (5-chloro-3-methyl-1-phenyl-1H-pyrazol-4-yl)-phenyl-methanone | 2.0 g | ClC1=C(C(=NN1C1=CC=CC=C1)C)C(=O)C1=CC=CC=C1 | C17H13ClN2O
